US04225609
Preparation of N-Methylsulfonyl-4-{3-[3-[2-(1-hydroxycyclohexyl)ethyl]-4-oxo-2-thiazolidinyl]propyl}benzamide
A solution of methanesulfonylisocyanate (1.33 g., 0.011 mole) in acetonitrile (10 ml.) is added dropwise during 10 minutes to a solution of 4-{3-[3-[2-(1-hydroxycyclohexyl)ethyl]-4-oxo-2-thiazolidinyl]propyl}benzoic acid (3.9 g., 0.01 mole) and triethylamine (1.0 g., 0.01 mole) in acetonitrile (30 ml.). The resulting solution is stored at 25° C. for 4 hours and then evaporated at reduced pressure. The residue is treated with water. The crude product is extracted into chloroform and purified by chromatography on a silica gel column with elution by 4% methanol in chloroform.

reactant | methanesulfonylisocyanate | 0.011 mole, 1.33 g | CS(=O)(=O)N=C=O | C2H3NO3S
reactant | 4-{3-[3-[2-(1-hydroxycyclohexyl)ethyl]-4-oxo-2-thiazolidinyl]propyl}benzoic acid | 0.01 mole, 3.9 g | OC1(CCCCC1)CCN1C(SCC1=O)CCCC1=CC=C(C(=O)O)C=C1 | C21H29NO4S
reactant | triethylamine | 0.01 mole, 1.0 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | N-Methylsulfonyl-4-{3-[3-[2-(1-hydroxycyclohexyl)ethyl]-4-oxo-2-thiazolidinyl]propyl}benzamide | CS(=O)(=O)NC(C1=CC=C(C=C1)CCCC1SCC(N1CCC1(CCCCC1)O)=O)=O | C22H32N2O5S2
